US20010021710A1
(±)-cis-7-Hydroxy-3-(4-fluorophenyl)-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane
A mixture of (±)-cis-3-(4-fluorophenyl)-7-methoxy-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane (0.90 g, 2.01 mmol) and anhydrous pyridine hydrochloride (11.60 g, 100 mmol) was heated to 150-155° C. as a melt for 18 hours. The mixture was cooled to room temperature, and the resulting orange coloured wax dissolved in a mixture of water (100 ml), hot ethanol (20 ml) and dichloromethane (150 ml). The aqueous layer was basified to pH 14 by adding 10M sodium hydroxide, then 1M hydrochloric acid was added until pH 8-9. The organic layer was collected and the aqueous layer further extracted with dichloromethane (2×150 ml). The combined organics were washed with saturated sodium chloride, dried over sodium sulfate and evaporated to a dark coloured gum, which was purified by column chromatography on silica gel, with 7% methanol in dichloromethane as eluent, giving the product as a colourless glass. This was dissolved in a minimum of acetone and petroleum ether added to precipitate the product as an amorphous solid, which was vacuum dried.

reactant | (±)-cis-3-(4-fluorophenyl)-7-methoxy-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane | 2.01 mmol, 0.90 g | FC1=CC=C(C=C1)[C@@H]1COC2=CC(=CC=C2[C@@H]1C1=CC=C(C=C1)OCCN1CCCC1)OC | C28H30FNO3
reactant | pyridine hydrochloride | 100 mmol, 11.60 g | Cl.N1=CC=CC=C1
reactant | sodium hydroxide | 10M | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | (±)-cis-7-Hydroxy-3-(4-fluorophenyl)-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)OCCN1CCCC1 | C27H28FNO3
